US06964966B2
Powdered KOH (2.8 g, 50 mmol) was added in portions to the stirred solution of ethylamine hydrochloride (4.0 g, 50 mmol) in methanol (50 ml) and 1-carbethoxy-3,5-dimethyl-4-piperidinone (5.0 g, 25.12 mmol) obtained by a procedure as described in Example 25 (Step-1), was added to it. The resulting reaction mixture was stirred for 6 hr. A solution of sodium cyanoborohydride (1.6 g, 25.12 mmol) in methanol (10 ml) was added dropwise to it and stirring was continued for 16 hr. The reaction mixture was concentrated to dryness. The obtained residue was dissolved in water and extracted with chloroform. Chloroform layer was extracted with 50% HCl and acid layer was basified with KOH (20%) solution. The oil thus separated was extracted with chloroform, dried (Na2SO4) and concentrated to give Mixtures A+B of 4-ethylamino-1-carbethoxy-3,5-dimethylpiperidine as an oil. Yield 5.6 g (97.7%), C12H24N2O2, m/z 229 (M+1).

reactant | KOH | 50 mmol, 2.8 g | [OH-].[K+]
reactant | ethylamine hydrochloride | 50 mmol, 4.0 g | Cl.C(C)N
reactant | 1-carbethoxy-3,5-dimethyl-4-piperidinone | 25.12 mmol, 5.0 g | C(=O)(OCC)N1CC(C(C(C1)C)=O)C | C10H17NO3
reactant | sodium cyanoborohydride | 25.12 mmol, 1.6 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | 4-ethylamino-1-carbethoxy-3,5-dimethylpiperidine | C(C)NC1C(CN(CC1C)C(=O)OCC)C | C12H24N2O2
